US08034811B2
2-[(2,3-Dihydro-benzofuran-5-ylmethyl)-amino]-benzoic acid
Prepared by a similar procedure as described for preparation 1A, starting from anthranilic acid and 2,3-dihydrobenzo[b]furan-5-carboxaldehyde (Matrix). 13C-NMR (DMSO-d6) δ 169.9, 158.7, 150.6, 134.3, 131.6, 130.9, 127.5, 126.8, 124.0, 114.3, 111.5, 110.1, 108.6, 70.8, 45.6, 29.0.

reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | 2,3-dihydrobenzo[b]furan-5-carboxaldehyde | O1C2=C(CC1)C=C(C=C2)C=O | C9H8O2
product | 2-[(2,3-Dihydro-benzofuran-5-ylmethyl)-amino]-benzoic acid | O1CCC2=C1C=CC(=C2)CNC2=C(C(=O)O)C=CC=C2 | C16H15NO3
